US05972965
To a solution of [3-[[2-(4,5-diphenyloxazol-2-yl)pyrrolidin-3-yl]methyl]phenoxy]acetic acid (140 mg) in a mixture of THF (10 ml) and water (10 ml) was added acetyl chloride (1.0 ml) dropwise at 0° C. keeping pH 8-9 with 1N NaOH solution. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, 1N-HCl and brine. The dried solvent was evaporated in vacuo and the residue was purified by trituration with hexane to afford [3-[[2-(4,5-diphenyloxazol-2-yl)-1-acetylpyrrolidin-3-yl]methyl]phenoxy]acetic acid (150 mg). FABMS (m/z): 497 (M+ +1) IR (Nujol): 3400, 1600 cm-1NMR (DMSO-d6, δ): 1.8-2.4 (5H, m), 2.6-3.1 (3H, m), 3.2-3.9 (2H, m), 4.58, 4.61 (2H, each s), 4.8-5.2 (1H, m), 6.6-7.0 (3H, m), 7.1-7.8 (11H, m)

reactant | [3-[[2-(4,5-diphenyloxazol-2-yl)pyrrolidin-3-yl]methyl]phenoxy]acetic acid | 140 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1NCCC1CC=1C=C(OCC(=O)O)C=CC1 | C28H26N2O4
reactant | acetyl chloride | 1.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | [3-[[2-(4,5-diphenyloxazol-2-yl)-1-acetylpyrrolidin-3-yl]methyl]phenoxy]acetic acid | 150 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1N(CCC1CC=1C=C(OCC(=O)O)C=CC1)C(C)=O | C30H28N2O5
